US05416236
Synthesis of ethyl 5-methylsulfonylamino-2-fluorocarbanilate
61.1 g (533 mmol) of methanesulfonyl chloride was added dropwise to a mixture of 96.0 g (485 mmol) of ethyl 5-amino-2-fluorocarbanilate, 46.0 g (582 mmol) of pyridine and 700 ml of dichloromethane at a temperature of not higher than 5° C. Thereafter the temperature was raised to room temperature and the reaction was continued for one night. After the solvent was distilled off, the resultant product was dissolved in ethyl acetate and washed with diluted hydrochloric acid twice, then with water, and with saturated saline solution. The resultant solution was dried over anhydrous sodium sulfate, and the ethyl acetate was distilled off to obtain the crude procut (crystals). The crude product was washed with diisopropyl ether, thereby obtaining 126 g of the objective product (yield: 94%) in the form of light brown crystals.

reactant | methanesulfonyl chloride | 533 mmol, 61.1 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | ethyl 5-amino-2-fluorocarbanilate | 485 mmol, 96.0 g | NC=1C=CC(=C(NC(OCC)=O)C1)F | C9H11FN2O2
reactant | pyridine | 582 mmol, 46.0 g | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 700 ml | ClCCl | CH2Cl2
product | ethyl 5-methylsulfonylamino-2-fluorocarbanilate | 126 g, yield: 94% | CS(=O)(=O)NC=1C=CC(=C(NC(OCC)=O)C1)F | C10H13FN2O4S
